US04188390
4-amino-2-chloro-6,7,8-trimethoxyquinazoline (1 g.) and N-(1,4-benzodioxan-2-carbonyl)piperazine (1.168 g.) were heated under reflux in n-butanol (67 ml.) with triethylamine (1.87 g.) for 24 hours. Further N-(1,4-benzodioxan-2-carbonyl)piperazine (0.026 g.) was then added and the mixture heated under reflux for an additional 30 hours. Butanol was then removed in vacuo and the residue partitioned between aqueous sodium carbonate solution and chloroform. The combined chloroform extracts were washed with water, dried (Na2SO4) and evaporated in vacuo to leave a solid (3.4 g.) which was taken up in the minimum quantity of dimethylformamide then set aside at 0° C. overnight. Ether was then added and the cloudy solution further cooled to yield 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7,8-trimethoxyquinazoline (0.58 g.), m.p. 269°-271° C.

reactant | 4-amino-2-chloro-6,7,8-trimethoxyquinazoline | 1 g | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)Cl | C11H12ClN3O3
reactant | N-(1,4-benzodioxan-2-carbonyl)piperazine | 1.168 g | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | C13H16N2O3
reactant | triethylamine | 1.87 g | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | n-butanol | 67 ml | C(CCC)O | C4H10O
catalyst | N-(1,4-benzodioxan-2-carbonyl)piperazine | 0.026 g | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | C13H16N2O3
solvent | Ether | CCOCC | C4H10O
product | 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7,8-trimethoxyquinazoline | 0.58 g | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)N1CCN(CC1)C(=O)C1COC2=C(O1)C=CC=C2 | C24H27N5O6
